Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain 
 
Major Surgical or Invasive Procedure:
cardiac catheterization with stent placement

 
History of Present Illness:
___ year old female with history of HTN, hyperlipidemia, family 
history of hyperlipidemia, and no prior history of CAD, or DM, 
presented to the ED with complaints of severe chest pain. 
Symptoms began at approximately 5pm this evening and the patient 
presented to the ED approximately half an hour later. Chest pain 
was described to worsen with exertion, and were not associated 
with symptoms of nausea/vomiting or diaphoresis. Of note, over 
the weekend, the patient had experienced mild chest pain 
associated with abdominal discomfort and bloating. Her symptoms 
improved, but on ___ and ___ she experienced intermittent 
fleeting sensations of chest discomfort which were mild. This 
morning, the patient felt fine that thought nothing more of her 
chest pain until she was walking home from work, approximately 4 
blocks to her car, when she suddenly experienced the same chest 
discomfort, only much more severe and concerning. The patient 
then proceeded to drive her car directly to the ___ ED for 
further evaluation.  
.  
Upon arrival to the ED, V/S were: P - ___, BP 187/101, RR-18, O2 
99% RA. Chest pain had started to resolve, however a 12-lead EKG 
showed ST segement elevations in the V1-V3 with reciprocal 
changes in the inferior leads. The patient was given Aspirin, 
600mg of plavix, a heparin bolus, as well as an integrillin 
bolus and was brought immediately to the cath lab where she was 
found to have two vessel disease (LAD 90% just past D1, LCx 
60-70% at OM1 bifurcation) with a proximal LAD lesion which was 
stented with one bare metal stent.  
.  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, myalgias, joint 
pains, cough, dysuria, abdominal pain. S/he denies recent 
fevers, chills or flu-like symptoms. Cardiac review of systems 
is notable for absence of dyspnea on exertion, paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope. All of the other review of systems were negative. 
 

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: (-) Diabetes, (+) Dyslipidemia, (+) 
Hypertension  
2. CARDIAC HISTORY:  
-CABG: None  
-PERCUTANEOUS CORONARY INTERVENTIONS: None  
-PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY:  
- HTN  
- Hyperlipidemia  
- Urinary Incontinence  
- Osteopenia  

 
Social History:
___
Family History:
Family history of early MI - father died at age ___, and 
grandfather died at age ___ related to complications of MI. No 
family history of arrhythmia, cardiomyopathies, or sudden 
cardiac death; Mother with history of Diabetes. 
 
Physical Exam:
VS: T= BP= HR= RR= O2 sat=  
GENERAL: Thin woman, appears younger than stated age. NAD. 
Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. Mucous membranes 
dry.  
NECK: Supple without elevated JVP.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. Extra heart sounds. No murmurs. No 
thrills, lifts.  
LUNGS: No chest wall deformities. Unlabored breathing. Lung 
fields CTAB without crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No abdominial bruits.  
EXTREMITIES: Right groin cath site with good hemostasis, small 
hematoma. No femoral bruits. No lower extremity edema. Foley 
catheter in place.  
SKIN: Warm without rash or bruises.  
PULSES:  
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 06:10PM BLOOD WBC-11.9* RBC-4.95 Hgb-15.3 Hct-44.6 
MCV-90 MCH-30.9 MCHC-34.3 RDW-13.0 Plt ___
___ 06:10PM BLOOD Neuts-54.2 ___ Monos-5.1 Eos-1.3 
Baso-0.7
___ 06:10PM BLOOD ___ PTT-21.2* ___
___ 06:10PM BLOOD Glucose-172* UreaN-15 Creat-1.0 Na-136 
K-3.1* Cl-96 HCO3-23 AnGap-20
___ 06:10PM BLOOD Calcium-10.2 Phos-3.2 Mg-1.9
.
___ 06:10PM BLOOD CK(CPK)-71 CK-MB-NotDone cTropnT-<0.01
___ 03:45AM BLOOD CK(CPK)-756* CK-MB-68* MB Indx-9.0*
___ 05:35AM BLOOD CK(CPK)-208* CK-MB-12* MB Indx-5.8 
cTropnT-0.63*
.
.
ECG ___: Sinus tachycardia. ST segment depression in leads 
II, III and aVF. ST segment elevation in leads I, aVL and V1-V3 
with ST segment depression in leads V5-V6. These findings are 
consistent with acute anterior, lateral and apical ischemic 
process. Rule out myocardial infarction. Followup and clinical 
correlation are suggested.
.
Cardiac catheterization ___:
1. Selective coronary angiography of this right dominant system 
revealed two vessel coronary artery disease. The ___ had no 
angiographic apparent disease. The LAD had a 99% lesion just 
after D1. The Lcx had a 60-70% bifurcation lesion at the level 
of OM1 bifurcation. The RCA had mild luminal irregularities.
2. Resting hemodynamics revealed normal left sided filling 
pressures with mean PCWP of ___s normal right 
sided filling pressure with RVEDP of 8mmHg. There was normal 
cardiac index of 4.3 L/min/m2. Normal pulmonary pressures with 
PA systolic of 26mmHg. There was mild systemic hypertension with 
a central aortic pressure of 145/84 mmHg.
3. Successful PTCA and stenting of the LAD with a 2.5x18mm Mini 
Vision stent. Final angiography revealed 30% stenoses proximal 
and distal to the stent with 0% residual stenosis in the stent 
portion, no angiographically apparent dissection and TIMI III 
flow.
FINAL DIAGNOSIS:
1. Two vessel coronary artery disease.
2. ST elevation MI
3. Successful PCI of the LAD.
4. Normal left and right sided filling pressures
5. Mild systemic hypertension.
.
ECG ___: Sinus rhythm with slowing of the rate as compared 
with previous tracing of ___. Anterior ST segment elevation 
persists with now some evolution of the ST-T wave changes 
recorded in lead V2. T waves are now biphasic in leads V2-V3. 
The ST segment depression recorded in the inferolateral leads 
has resolved somewhat. Followup and clinical correlation are 
suggested. Rule out myocardial infarction.
.
ECG ___: Sinus tachycardia. Compared to the previous tracing 
of ___ there is further evolution of acute anteroseptal and 
lateral myocardial infaction and an increase in rate. Clinical 
correlation is suggested.
.
ECG ___: Sinus rhythm with slowing of the rate as compared 
with previous tracing of ___. There is further evolution of 
acute anteroseptal and lateral myocardial infarction. Clinical 
correlation is suggested.
.
TTE ___: The left atrium and right atrium are normal in 
cavity size. The estimated right atrial pressure is ___. 
Left ventricular wall thicknesses and cavity size are normal. 
There is mild regional left ventricular systolic dysfunction 
with mid to distal anteroseptal akinesis and distal anterior and 
apex hypokinesis. The remaining segments are hyperdynamic. No 
masses or thrombi are seen in the left ventricle. Overall left 
ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. There is a trivial/physiologic 
pericardial effusion. There is an anterior space which most 
likely represents a fat pad.  IMPRESSION: Mild focal left 
ventricular systolic dysfunction (consistent with coronary 
artery disease) with overall normal global function.
 
Brief Hospital Course:
ASSESSMENT AND PLAN: The patient is a ___ year old woman with 
cardiac risk factors of hypertension and hyperlipidemia 
presented with acute onset of chest pain and anterior ST segment 
elevation on EKG. She was taken emergently to cardiac 
catherization, which showed evidence of 2-vessel disease with a 
99% LAD lesion and 60-70% LCx lesion. She received a bare-metal 
stent to the LAD lesion.
.  
CORONARIES: The patient suffered from an anterior STEMI and 
underwent cardiac catheterization that revealed a mid-LAD 
lesion, which was stented with a bare-metal stent. She was 
treated with aspirin, palvix, heparin and integrillin gtts. Her 
Lipitor dose was increased, and she was started on a 
beta-blocker and continued on her home ACEi. Serial ECGs showed 
evolution of the infarction, and serial cardiac enzymes were 
followed that showed a peak CK of 756 and MB of 68.
.  
PUMP: An echocardiogram was done on the day post-STEMI, which 
showed mild focal left ventricular systolic dysfunction 
consistent with coronary artery disease, with overall normal 
global function. She was continued on her home ACEi and started 
on a beta-blocker. Her HCTZ was discontinued.
.  
RHYTHM: The patient was initially tachycardic, likely related to 
stress, pain, and the recent STEMI, but she remained in sinus 
rhythm throughout the hospitalization without any evidence of 
arrhythmia or ectopy. She was started on a beta-blocker.
 
Medications on Admission:
Atorvastatin - 10 mg po daily  
HCTZ - 12.5 mg po daily  
Moexipril - 15MG po BID (increased 3 months ago)  

 
Discharge Medications:
1. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
5. Moexipril 15 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: ST elevation myocardial infarction
Secondary: Hypercholesterolemia, Hypertension

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital with chest pain and determined 
to be having a heart attack. You underwent cardiac 
catheterization that demonstrated a blockage in one of the 
arteries of the heart. A stent was placed during this procedure. 
Because you now have a stent it is very important that you take 
ASPIRIN and PLAVIX daily. You will discuss the duration of the 
plavix when you see your cardiologist.

NEW MEDICATIONS:
ASPIRIN
PLAVIX
METOPROLOL TARTRATE
FAMOTIDINE

Medication CHANGES:
--STOP taking HCTZ: your blood pressure has been well controlled 
in the hospital without this medication. 
--Atorvastatin INCREASED from 10mg daily to 80 mg daily
--Moexipril now 15 mg ONCE DAILY rather than twice a day

If you experience chest pain, shortness of breath, fevers, 
chills or any other concerning symptom please contact your 
cardiologist or come to the emergency department for evaluation.
 
Followup Instructions:
___